US07358014B2
To a mixture of 0.5 mole of butadiene sulfone (commercially available from Aldrich, Milwaukee, Wis.) and 0.55 mole of 2-naphthylhydrazine is added 0.005 mole 40% aqueous potassium hydroxide solution. The mixture is kept for 16 hours at 60° C. N-(2-Naphthyl)-N-sulfolan-3-ylhydrazine is isolated and purified.

reactant | butadiene sulfone | 0.5 mole | S1(=O)(=O)CC=CC1 | C4H6O2S
reactant | 2-naphthylhydrazine | 0.55 mole | C1=C(C=CC2=CC=CC=C12)NN | C10H10N2
reactant | potassium hydroxide | 0.005 mole | [OH-].[K+]
product | N-(2-Naphthyl)-N-sulfolan-3-ylhydrazine | C1=C(C=CC2=CC=CC=C12)N(N)C1CS(=O)(=O)CC1 | C14H16N2O2S
